US07432258B2
2-(6,7-dichloro-3-oxo-2,3-dihydro-4H-1,4-benzoxazin-4-yl)-N-[1-{4′-[(ethylsulfonyl)amino]-4-biphenylyl}-2-(4-morpholinyl)ethyl]-N-methylacetamide
To a solution of N-[1-(4′-amino-4-biphenylyl)-2-(4-morpholinyl)ethyl]-2-(6,7-dichloro-3-oxo-2,3-dihydro-4H-1,4-benzoxazin-4-yl)-N-methylacetamide (68 mg, 0.12 mmol) in dichloromethane (2 mL) was added ethanesulfonyl chloride (18.5 mg, 0.14 mmol). Triethylamine (24 mg, 0.24 mmol) was added, and the resultant mixture was stirred at room temperature for 2 h. The mixture was concentrated under reduced pressure, and the residue was purified by Gilson preparative HPLC (Xterra Prep RP, 30×100 mm, 45 mL/min, A: acetonitrile with 0.1% TFA B: water with 0.1% TFA, A: 25 to 55% over 15 min, UV detection at 214 nm) to give 18.3 mg (23%) of the title compound as an off white solid. MS (ES) m/e 661.1 [M+H]+.

reactant | N-[1-(4′-amino-4-biphenylyl)-2-(4-morpholinyl)ethyl]-2-(6,7-dichloro-3-oxo-2,3-dihydro-4H-1,4-benzoxazin-4-yl)-N-methylacetamide | 0.12 mmol, 68 mg | NC1=CC=C(C=C1)C1=CC=C(C=C1)C(CN1CCOCC1)N(C(CN1C(COC2=C1C=C(C(=C2)Cl)Cl)=O)=O)C | C29H30Cl2N4O4
reactant | ethanesulfonyl chloride | 0.14 mmol, 18.5 mg | C(C)S(=O)(=O)Cl | C2H5ClO2S
reactant | Triethylamine | 0.24 mmol, 24 mg | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 2-(6,7-dichloro-3-oxo-2,3-dihydro-4H-1,4-benzoxazin-4-yl)-N-[1-{4′-[(ethylsulfonyl)amino]-4-biphenylyl}-2-(4-morpholinyl)ethyl]-N-methylacetamide | 18.3 mg, 23% | ClC=1C(=CC2=C(N(C(CO2)=O)CC(=O)N(C)C(CN2CCOCC2)C2=CC=C(C=C2)C2=CC=C(C=C2)NS(=O)(=O)CC)C1)Cl | C31H34Cl2N4O6S
